US08017608B2
54a) 5-(2-Chloro-ethyl)-[1,3,4]thiadiazol-2-ylamine
Thiosemicarbazide (10 g, 111 mmol) is added in portions to a solution of 3-chloropropionic acid (10 g, 92 mmol) in concentrated sulfuric acid. The mixture is heated with stirring at 75° C. for 1 hour. After cooling to room temperature the reaction mixture id added slowly to water and the resulting solution is brought to pH 7 by addition of aqueous ammonia solution. The titled product precipitates as a yellow solid which is removed by filtration and dried.

reactant | Thiosemicarbazide | 111 mmol, 10 g | NNC(=S)N | CH5N3S
reactant | 3-chloropropionic acid | 92 mmol, 10 g | ClCCC(=O)O | C3H5ClO2
reactant | water | O | H2O
reactant | ammonia | N | H3N
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-(2-Chloro-ethyl)-[1,3,4]thiadiazol-2-ylamine | ClCCC1=NN=C(S1)N | C4H6ClN3S
